US08614195B2
To a stirred solution of (R)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (2R,3R,4R,5S,65)-3,4,5-tris-benzyloxy-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-tetrahydro-pyran-2-ylmethyl ester (4.5 g, 5.0 mmol) in ethyl acetate: methanol (1:4 mixture, 50 ml) was added palladium hydroxide (2.0 g). After stirring for overnight at room temperature, reaction mixture was filtered through celite bed, concentrated and purified by silica gel column chromatography to give 3.12 g of (R)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (2R,3S,4R,5R,6S)-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-3,4,5-trihydroxy-tetrahydro-pyran-2-ylmethyl ester as a white solid.

reactant | (R)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (2R,3R,4R,5S,65)-3,4,5-tris-benzyloxy-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-tetrahydro-pyran-2-ylmethyl ester | 5.0 mmol, 4.5 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](O[C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C1=CC(=C(C=C1)CC)CC1=CC2=C(OCCO2)C=C1)COC([C@@H](C(C)C)NC(=O)OC(C)(C)C)=O | C54H63NO10
solvent | ethyl acetate methanol | 50 ml | C(C)(=O)OCC.CO
catalyst | palladium hydroxide | 2.0 g | [OH-].[Pd+2].[OH-]
product | (R)-2-tert-butoxycarbonylamino-3-methyl-butyric acid (2R,3S,4R,5R,6S)-6-[3-(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-4-ethyl-phenyl]-3,4,5-trihydroxy-tetrahydro-pyran-2-ylmethyl ester | 3.12 g | O1CCOC2=C1C=CC(=C2)CC=2C=C(C=CC2CC)[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)COC([C@@H](C(C)C)NC(=O)OC(C)(C)C)=O)O)O)O | C33H45NO10
